reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([N:2]1[C@:3]([N:5]([C:6]([H:12])([H:13])[H:14])[C:7]([H:15])([H:16])[H:17])([H:11])[O:4]1)([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[C:7]([H:15])([H:16])[H:17])[H:11])([H:8])([H:9])[H:10],54.5595144669077
[C:1]([C@@:2]([C:3]([C:4]([O:5][H:16])([H:14])[H:15])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3](=[C:4]([H:14])[H:15])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10].[O:5]([H:12])[H:16],68.0212868919796
[C:1]([N:2]([C:3]([C:4]#[N:5])([H:10])[H:11])[H:9])([H:6])([H:7])[H:8]>>[C:1]([N:2]([N:5]=[C:4]=[C:3]([H:10])[H:11])[H:9])([H:6])([H:7])[H:8],101.482231132069
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([O:5][H:16])([H:14])[H:15])[C:6]#[N:7])([H:8])([H:9])[H:10]>>[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[O:5]/[C:6]1=[N:7]\[H:16])([H:8])([H:9])[H:10],72.5568510518937
[O:1]([C@@:2]1([H:7])[C:3]([H:8])([H:9])[C@:4]1([O:5][H:11])[H:10])[H:6]>>[O:1]([C:2]([C:3]([C:4](=[O:5])[H:10])([H:8])[H:9])([H:6])[H:7])[H:11],69.3592375363185
[N:1]([C:2]([N:3]1[C:4]([H:9])=[N:5]1)=[O:6])([H:7])[H:8]>>[N:1]([c+:2]1[n-:3][c:4]([H:9])[n:5][o:6]1)([H:7])[H:8],28.08132320614868
[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([H:16])([H:17])[H:18])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([C:6]#[N:7])([H:13])[H:14])=[C:5]([H:16])[H:17])([H:11])[H:12])([H:8])([H:9])[H:10].[H:15][H:18],127.105953465334
[O:1]([C:2]1([H:6])[C:3]([H:7])([H:8])[C:4]1([H:9])[H:10])[H:5]>>[O:1](/[C:2](=[C:4](\[C:3]([H:7])([H:8])[H:10])[H:9])[H:6])[H:5],63.318931522915705
[C:1]([C:2]([O:3][H:14])([H:10])[H:11])([H:7])([H:8])[H:9].[C:4](=[O:5])=[C:6]([H:12])[H:13]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9],37.5226443018781
[O:1]([C@@:2]([C:3]#[N:4])([N+:6]#[C-:5])[H:8])[H:7]>>[O:1]([C:2]([C:3]#[N:4])([C:5]#[N:6])[H:8])[H:7],37.1142899415599
[C:1]([C@@:2]1([H:10])[C@:3]([C:4]([H:12])([H:13])[H:14])([H:11])[C@:5]1([C:6]([H:16])([H:17])[H:18])[H:15])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3][C@:5]1([C:6]([H:16])([H:17])[H:18])[H:15])([H:7])([H:8])[H:9].[C:4]([H:11])([H:12])([H:13])[H:14],100.222631414002
[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5][O:6][H:12])[H:10])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5](=[O:6])[H:12])[H:10])([H:8])[H:9])[H:7],27.9327678250334
[N:1]([C:2](=[O:3])[C:4]([N:7]([C:6](=[O:5])[H:12])[H:13])([H:10])[H:11])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9],74.1417140380641
[C:1]([C:2]([C:3]([C:4]([C:5](=[O:6])[H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([C:4]([C:5][O:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],80.35702495321779
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5]([O:6][H:18])([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[C:5]([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[C:4]([O:6][H:18])([H:13])([H:14])[H:15],111.58595358545
[O:1]([C:2]([C:3]([C:4]([C:5]#[N:6])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]([C@@:2]1([H:8])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5][N:6]1[H:9])[H:7],93.64882717276848
[O:1]=[C:2]([C:6](=[C:5]1[C:3]#[C:4]1)[H:8])[H:7]>>[O:1]=[C:2]([C:3]#[C:4][C:5]#[C:6][H:8])[H:7],42.157027843179804
[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4]>>[N:1](=[C:2]1\[O:5][C:6]([H:9])=[C:7]1[H:10])\[H:8].[N:3]#[N:4],25.2368288538405
[C:1](=[C:2]([H:10])[H:11])([H:7])[H:9].[C:3]([C:4]([H:13])([H:14])[H:15])(=[C:5]=[N:6][H:8])[H:12]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],22.1190002471223
[O:1]([C:2]([C:3]([C:4]([C:5]#[N:6])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C:2]1([H:8])([H:9])[C:3]([H:10])([H:11])[C:4]1([C:5]#[N:6])[H:13].[O:1]([H:7])[H:12],89.25495847156
[N:1]1([H:8])[C:2](=[O:3])[C@:6]1([O:7][C:4](=[O:5])[H:9])[H:10]>>[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6](=[O:7])[H:10])\[H:8],22.978620448069403
[n+:1]1([H:6])[c-:2][n:3]([H:7])[n:4][c:5]1[H:8]>>[n:1]1([H:6])[c:2]([H:7])[n:3][n:4][c:5]1[H:8],46.26419903129481
[C:1]([C:2]#[N:3])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:11])[H:12].[O:4]([H:10])[H:13]>>[C:1](/[C:2](=[N:3]/[O:4][H:10])[C:5]([O:6][H:13])([H:11])[H:12])([H:7])([H:8])[H:9],70.8161011472825
[C:1]([O:2][C:3]([C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O+:2]=[C-:3][H:11])([H:7])([H:8])[H:9].[C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])([H:10])[H:12],83.1371397140204
[C:1]([c:2]1[c:3]([H:10])[c:4]([H:11])[c:5]([H:12])[n:6]1[H:13])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3])[N:6]([C:5](=[C:4]([H:10])[H:11])[H:12])[H:13])([H:7])([H:8])[H:9],101.670551868864
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]#[N:6])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:12])[H:13])([H:7])([H:8])[H:9].[H:10][H:11],83.8179870626218
